US03936439
In 100 parts by volume of pyridine is suspended 10 parts by weight of 2-phenylaminoinosine and 50 parts by weight of acetic anhydride is added dropwise. The mixture is stirred for 3 hours, at the end of which time it is concentrated under reduced pressure. The residue is recrystallized from 5 parts by volume of methanol. The procedure gives 2 parts by weight of 2-phenylamino-2',3',5'-tri-O-acetylinosine in the form of colorless flocs.

reactant | 2-phenylaminoinosine | C1(=CC=CC=C1)NC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)O | C16H17N5O5
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-phenylamino-2',3',5'-tri-O-acetylinosine | C1(=CC=CC=C1)NC=1N=C(C=2N=CN([C@H]3[C@H](OC(C)=O)[C@H](OC(C)=O)[C@@H](COC(C)=O)O3)C2N1)O | C22H23N5O8
